US06211215B1
In substantially the same manner as in Working Example 47, 1-[3-(4-hydroxyphenyl)propyl]imidazole was allowed to react with 4-chloromethyl-2-(2,2-diphenyl ethenyl)oxazole to give 2-(2,2-diphenylethenyl)-4-[4-[3-(1-imidazolyl)propyl]phenoxymethyl]oxazole as an oily product. The yield was 88%.

reactant | 1-[3-(4-hydroxyphenyl)propyl]imidazole | OC1=CC=C(C=C1)CCCN1C=NC=C1 | C12H14N2O
reactant | 4-chloromethyl-2-(2,2-diphenyl ethenyl)oxazole | ClCC=1N=C(OC1)C=C(C1=CC=CC=C1)C1=CC=CC=C1 | C18H14ClNO
product | 2-(2,2-diphenylethenyl)-4-[4-[3-(1-imidazolyl)propyl]phenoxymethyl]oxazole | yield was 88% | C1(=CC=CC=C1)C(=CC=1OC=C(N1)COC1=CC=C(C=C1)CCCN1C=NC=C1)C1=CC=CC=C1 | C30H27N3O2
